US09169254B2
N,N-Diisopropylethylamine (1.22 ml, 7.00 mmol) and methyl bromoacetate (1.00 g, 6.54 mmol) were sequentially added to a solution of 4-bromo-3-(trifluoromethyl)aniline (1.40 g, 5.83 mmol) in DMF (10 ml), and the mixture was heated with stirring at 80° C. for 25 hours. The reaction mixture was cooled and water was then added, followed by extraction with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was triturated with hexane:dichloromethane=9:1 to give (4-bromo-3-trifluoromethyl-phenylamino)-acetic acid methyl ester (1.22 g, 67%).

reactant | N,N-Diisopropylethylamine | 7.00 mmol, 1.22 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl bromoacetate | 6.54 mmol, 1.00 g | BrCC(=O)OC | C3H5BrO2
reactant | 4-bromo-3-(trifluoromethyl)aniline | 5.83 mmol, 1.40 g | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (4-bromo-3-trifluoromethyl-phenylamino)-acetic acid methyl ester | 1.22 g, 67% | COC(CNC1=CC(=C(C=C1)Br)C(F)(F)F)=O | C10H9BrF3NO2
